US04329347
6-(2-Phenylsulfinyl-ethoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 6-(2-phenylmercapto-ethoxy)-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-(2-phenylmercapto-ethoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)SCCOC=1C=C2CCC(NC2=CC1)=O | C17H17NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-(2-Phenylsulfinyl-ethoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)CCOC=1C=C2CCC(NC2=CC1)=O | C17H17NO3S
